US06528504B2
(R)-5,11-Dihydro-5-[1-(3,4-methylenedioxyphenethyl)pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine Hydrochloride
3.0 ml of 2 M hydrochloric acid/ethyl ether was added to a solution of (R)-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl) pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine (63 mg, 0.15 mmol) in dichloromethane, and they were stirred for 1 hour. The solvent was evaporated under reduced pressure to obtain the title compound in the form of a white solid (62 mg, 91%).

reactant | hydrochloric acid ethyl ether | 2 M, 3.0 ml | Cl.C(C)OCC
reactant | (R)-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl) pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine | 0.15 mmol, 63 mg | C1OC=2C=C(CCN3C[C@@H](CC3)N3C4=C(OCC5=C3C=CC=C5)C=CC=C4)C=CC2O1 | C26H26N2O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-(3,4-methylenedioxyphenethyl)pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine Hydrochloride | Cl.C1OC=2C=C(CCN3C[C@@H](CC3)N3C4=C(OCC5=C3C=CC=C5)C=CC=C4)C=CC2O1 | InChI=1S/C26H26N2O3.ClH/c1-2-6-22-20(5-1)17-29-24-8-4-3-7-23(24)28(22)21-12-14-27(16-21)13-11-19-9-10-25-26(15-19)31-18-30-25;/h1-10,15,21H,11-14,16-18H2;1H/t21-;/m1./s1
